US08895547B2
(S)-3-(6,6-Dimethyl-4,4-dioxo-5-pyridin-3-yl-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-2-ylamino)-3-(2-fluorophenyl)propan-1-ol
To a solution of [(S)-3-(tert-butyldimethylsilanyloxy)-1-(2-fluorophenyl)propyl]-[5-(6-chloropyridin-3-yl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-2-yl]amine (310 mg) in methanol was added palladium on charcoal (5%, 119 mg), and the mixture was stirred in a hydrogen atmosphere for 19 h. The mixture was filtered and the filtrate was concentrated. The residue was dissolved in methanol (10 ml) and treated with conc. HCl (1 ml). After 2 h, the solution was purified in a purification laboratory by means of preparative HPLC. This gave the product (108 mg) with a molecular weight of 407.5 g/mol (C19H22FN3O4S); MS (ESI): m/e=408 (M+H+).

reactant | [(S)-3-(tert-butyldimethylsilanyloxy)-1-(2-fluorophenyl)propyl]-[5-(6-chloropyridin-3-yl)-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-2-yl]amine | 310 mg | [Si](C)(C)(C(C)(C)C)OCC[C@@H](C1=C(C=CC=C1)F)NC=1OC(C(S(N1)(=O)=O)C=1C=NC(=CC1)Cl)(C)C | C25H35ClFN3O4SSi
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | palladium on charcoal | 119 mg | [Pd] | Pd
product | (S)-3-(6,6-Dimethyl-4,4-dioxo-5-pyridin-3-yl-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-2-ylamino)-3-(2-fluorophenyl)propan-1-ol | 108 mg | CC1(C(S(N=C(O1)N[C@@H](CCO)C1=C(C=CC=C1)F)(=O)=O)C=1C=NC=CC1)C | C19H22FN3O4S
